US05753629
To a solution containing 0.688 g of ethyl 2-aminothiazole-4carboxilate (prepared as reported in J.A.C.S. 68,266,1946) and 0.3 g of 2-bromoacrylic acid in 10 ml of dioxane, 0.412 g of N-N'dicyclohexylcarbodiimide were and the mixture was stirred at room temperature overnight. After filtration, the solvent was evaporated in vacuo, the solid residue was dissolved in 50 ml of ethyl acetate, treated with saturated solution of sodium bicarbonate and then with 10% hydrochloric acid. The organic phase was dried over anhydrous sodium sulphate and the solvent evaporated in vacuo. The solid residue was purified by recrystallization from ethanol-water to yield 0.52 g of ethyl 2-(α-bromoacrylamido)thiazole-4-carboxylate.

reactant | ethyl 2-aminothiazole-4carboxilate | 0.688 g | NC=1SC=C(N1)C(=O)OCC | C6H8N2O2S
reactant | 2-bromoacrylic acid | 0.3 g | BrC(C(=O)O)=C | C3H3BrO2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | ethyl 2-(α-bromoacrylamido)thiazole-4-carboxylate | 0.52 g | BrC(C(=O)NC=1SC=C(N1)C(=O)OCC)=C | C9H9BrN2O3S
